US05877205
The DMA-paclitaxel mixture was diluted in normal saline or 5% dextrose in water to yield drug concentrations of 1 mg/ml and 5 mg/ml.

reactant | DMA paclitaxel | CC(=O)N(C)C.CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C
reactant | normal saline | O.[Na+].[Cl-]
solvent | water | O | H2O
product | dextrose | 5% | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
